Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
___ Complaint:
Breathlessness, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ ___ disease who presents with generalized
subjective weakness and a feeling like her heart skips a beat,
which is associated with subjective dyspnea. 

Yesterday afternoon, the pt developed sensation of "heart
stopping" for a moment. Family has measured pulse during these
events and noticed a skipped beat. Since the onset of this
symptom, she has felt very fatigued and weak. Family notes that
she is normally able to walk around the house well, but since
having these episodes, has felt too tired to walk even short
distances. She also has a difficult-to-describe sensation in her
mid-chest, which is partially relieved by taking a deep breath.
Denies any chest pain or pressure.

Although she reports that this has never happened before, review
of cardiology notes from ___ suggests she has reported similar
symptoms in the past. 

Her family denies that she has had any of the typical
cognitive/psychological syptoms of advancing ___ disease
including no executive dysfunction, overt anxiety, or
delusions/hallucinations.

Vitals in the ED were: 96.6F, HR 59, BP 149/71, RR 18, SpO2 99%
RA .

Initial labs and studies notable for:
 UA: 63 WBCs, +nitrites, many bacteria
 CBC and chemistries are unremarkable. 
 EKG unremarkable, other than artifact from Parkinsonian tremor
and a lone PAC

She was given 1g CTX for presumed UTI and was admitted to
medicine. 

ROS
 GEN: denies fevers/chills
 CARDIAC: denies chest pain 
 PULM: denies new dyspnea or cough. As above, she has a vague
breathlessness unchanged by activity, that feels relieved by
taking a voluntary deep inhalation.
 GI: denies n/v, denies change in bowel habits
 GU: denies dysuria or change in appearance of urine
 Full 14-system review of systems otherwise negative and
non-contributory. 
 
Past Medical History:
___ disease 
Episodic palpitations and associated dyspnea (s/p negative TTE
and ETT in ___
HTN
Hyperparathyroidism s/p resection
Osteoporosis w/ compression fractures
Constipation
Hemoptysis from LLL AVMs
Goiter
s/p appendectomy
 
Social History:
___
Family History:
Father died of stomach cancer
 
Physical Exam:
ADMISSION EXAM
 CONSTITUTIONAL: fatigued elderly woman in NAD. Rests her hand 
on
her sternum while looking perturbed. 
 EYE: sclerae anicteric, EOMI
 ENT: audition grossly intact, MMM, OP clear. Mildly hypophonic.
 LYMPHATIC: No LAD
 CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
 PULM: normal effort of breathing, LCAB
 GI: soft, NT, ND, NABS
 GU: no CVA tenderness, suprapubic region soft and nontender
 MSK: no visible joint effusions or acute deformities.
 DERM: no visible rash. No jaundice.
 NEURO: AAOx3. No facial droop, moving all extremities. Masked
facies. Resting tremor R hand>L hand. 
 PSYCH: Full range of affect
===============
DISCHARGE EXAM:
___ 1505 Temp: 98.8 PO BP: 148/69 HR: 62 RR: 18 O2 sat: 95% 
O2 delivery: RA 
GENERAL: Alert and in no apparent distress, appears comfortable,
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: Regular rate and rhythm, no murmurs/rubs, no S3, no S4. 2+ 
radial pulses bilaterally.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
GU: No GU catheter present
MSK: Moves all extremities, no edema or swelling, no chest 
tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, speech fluent, moves 
all limbs, right upper extremity resting tremor, no notable 
rigidity
PSYCH: Pleasant, appropriate affect, calm, cooperative

 
Pertinent Results:
ADMISSION RESULTS:
___ 10:50AM BLOOD WBC-5.6 RBC-4.10 Hgb-11.9 Hct-37.1 MCV-91 
MCH-29.0 MCHC-32.1 RDW-12.9 RDWSD-42.6 Plt ___
___ 10:50AM BLOOD Neuts-52.8 ___ Monos-8.7 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-2.98 AbsLymp-2.11 AbsMono-0.49 
AbsEos-0.03* AbsBaso-0.02
___ 10:50AM BLOOD ___ PTT-22.6* ___
___ 10:50AM BLOOD Glucose-100 UreaN-16 Creat-0.7 Na-140 
K-5.5* Cl-107 HCO3-23 AnGap-10 HEMOLYZED
___ 10:50AM BLOOD cTropnT-<0.01
___ 10:50AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.1
___ 12:08PM BLOOD K-6.3* HEMOLYZED
___ 12:50PM BLOOD K-3.5
___ 11:57AM URINE Blood-TR* Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 11:57AM URINE RBC-4* WBC-63* Bacteri-MANY* Yeast-NONE 
Epi-<1

EKG: Sinus rhythm in the high ___. There is one PAC with an
appropriate compensatory pause over 20 seconds of available
tracing.

CXR ___: No acute findings, chronic L humeral neck deformity

===================
PERTINENT INTERVAL RESULTS
___ 10:50AM BLOOD TSH-2.8
___ 12:24PM BLOOD Free T4-1.0
===================
DISCHARGE RESULTS:
___ 05:55AM BLOOD WBC-5.2 RBC-4.44 Hgb-12.7 Hct-38.3 MCV-86 
MCH-28.6 MCHC-33.2 RDW-12.9 RDWSD-40.4 Plt ___
___ 05:55AM BLOOD Glucose-84 UreaN-11 Creat-0.7 Na-146 
K-4.0 Cl-110* HCO3-20* AnGap-16
___ 06:58AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.2
===================
MICROBIOLOGY:
___ 11:57 am URINE      ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
===================

 
Brief Hospital Course:
Ms. ___ is a ___ yo ___ lady with ___ 
disease, who presented to the ED with subjective weakness, 
palpitations, and breathlessness.  She was found to have 
positive orthostatic vital signs, hyperkalemia, and urinary 
tract infection.

ACUTE/ACTIVE PROBLEMS:
#E. coli urinary tract infection: She denies urinary symptoms, 
but her non-specific symptoms of subjective weakness and malaise 
could be symptoms.  She was afebrile without leukocytosis.  
Urine culture grew pan-sensitive E. coli. She was treated with 
IV Ceftriaxone 1g daily (___) and switched to Cefpodoxime 
100mg BID (___).  Her son was very, very insistent upon 
having repeat urine study after finishing antibiotics and I 
explained that it is not typical to do a test of cure for an 
uncomplicated UTI.  He said he disagreed with this practice, 
would not accept my explanation, and I explained that he could 
discuss further with her PCP after she finishes.

#Orthostatic hypotension: She had positive orthostatic vital 
signs. She had echo in ___ showing LVEF 69%, mild-moderate 
aortic and mitral regurgitation. I suspect this is most likely a 
chronic issue due to ___ Disease, as she does not appear 
hypovolemic on exam and family denied reduced oral intake prior 
to admission.  She got a total of 3L IV fluids without 
improvement. I reviewed previous records and unfortunately could 
not find a record of orthostatic vitals signs being checked in 
our system prior to this admission.  I found two neurology 
clinic notes (most recently in ___ that mention "no 
orthostasis" but no documented orthostatic vital signs and the 
text was copied from a prior note in ___, so not sure if were 
actually checked at that visit.

#Breathlessness: She reports feeling breathless but she was 
never hypoxic and CXR on ___ showed no acute findings.  No 
evidence of CHF. PE is unlikely in absence of tachycardia, 
hypoxemia, chest pain, RV strain. 

#Palpitations
#Sinus bradycardia: She reports some palpitations and was 
bradycardic (in ___ but no signs of other arrhythmia.  
Initial EKG showed sinus bradycardia and a PAC, but no 
significant changes since ___.  She had stress test in ___ 
that was negative.  She was seen in ___ clinic in ___ with 
similar symptoms (though her son says this is not the same 
symptoms, though he and the patient's husband almost always 
talked FOR the patient, rather than letting her answer).  At 
that time, no further intervention, follow up or testing was 
recommended.  I had a long conversation with the patient, her 
husband and son and explained that I'd reviewed her telemetry 
and there was not arrhythmias and looked sinus.  Her son seemed 
very fixated on the PAC seen on the initial EKG and interpreted 
this as being "not regular" and demanded cardiology opinion. 
This was with the ___ interpreter and nurse present. He 
made threats, saying he wanted to talk to my "supervisor" and 
asked if I was a resident. He also "If she goes home and has to 
come back to the ED, are you responsible for that?" I explained 
that I cannot guarantee (nor can anyone guarantee) that she will 
not have to come back to the ED, but that she is always welcome 
to return if there are concerns.  I asked a cardiologist to 
review her data with me, as I did not see an indication for a 
formal consult given no evidence of significant arrhythmia, and 
she was set up with an outpatient appointment with Dr. ___.  
During her entire hospital course, she had no events except for 
7 beats of non-sustained VT on telemetry with no hemodynamic 
instability and not coinciding with symptoms.

CHRONIC/STABLE PROBLEMS:
#HTN: Mostly normotensive with SBP in 100s-140s, occasionally 
SBP up to 160s but not sustained. She is not on any medication 
at home and did not start any since she has orthostatic 
hypotension.

___ Disease: Continued home Carbidopa-Levodopa QID.  
She follows with neurology as an outpatient.

RESOLVED PROBLEMS:
#Hyperkalemia (RESOLVED): Initial K was 5.5, which resolved 
without intervention.  For some reason, she also got 40meq on 
___.

#Hypophosphatemia: Phos was low at 2.6, but resolved with oral 
repletion.

========
TRANSITIONAL ISSUES:
- Outpatient cardiology evaluation for palpitations.  Could 
consider an event monitor for further workup, but as I explained 
to the patient and her family, this would be outpatient, not 
inpatient, form of testing.
- Recheck orthostatic vitals as outpatient - may be chronic 
problem.  Could consider trialing midodrine if severely 
symptomatic and limiting quality of life.  

Check if applies: [X] Ms. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) 1 TAB PO QID 
2. Calcium Carbonate 500 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO Q12H Duration: 1 Day 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*4 Tablet Refills:*0 
2.  Calcium Carbonate 500 mg PO EVERY OTHER DAY  
3.  Carbidopa-Levodopa (___) 1 TAB PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
E. coli UTI 
Hyperkalemia 
Hypophosphatemia 
Orthostatic hypotension 
___ disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ was a pleasure caring for you.

You were admitted with an E. coli urinary tract infection. You 
got better with fluids and antibiotics. You have 2 days left of 
oral antibiotic therapy.  As we discussed, it is not typical to 
check a urine sample after completing antibiotic therapy to make 
sure the infection is gone, but you can discuss further with 
your primary care doctor.

Your blood pressure decreases when you change positions from 
laying to sitting to standing.  This is called orthostatic 
hypotension.  This can be seen in patients with ___ 
disease, as well as in general in people as we get older, this 
can be a common problem.  This can cause dizziness with position 
changes.  This was not changed by IV fluids, so it is unlikely 
that you were dehydrated.  It is recommended to change positions 
very slowly and wait a few minutes in between, to reduce 
dizziness.

You had normal oxygen levels.  You had no evidence of pneumonia 
or fluid on your chest x-ray.

You have an appointment scheduled with a cardiologist, as noted 
below.  As we discussed, you had a premature beat on your EKG, 
but this alone does not require treatment or further testing in 
the hospital.  However, it would be helpful to see a 
cardiologist in their clinic, which has been scheduled.  
Repeating an echocardiogram within the next several years would 
be recommended, but not urgent as you had one in ___.  As 
discussed, you are always able to return to the emergency 
department if you feel unwell.  We cannot guarantee that you 
would not need to be hospitalized ever again in the future, but 
fortunately you are doing well and are medically stable for 
discharge at this time.

We wish you well in your recovery!
 
Followup Instructions:
___